US06242443B1
3-Allylamino-6-chloro-4H-1,2,4-benzothiadiazine 1,1-dioxide
The title compound was prepared from 2-amino-4-chlorobenzenesulfonamide and allyl isothiocyanate by a method analogous to the one described in Example 4; m.p. 284-286° C. (ethyl acetate); 1H-NMR (DMSO-d6): δ 3.88 (distorted t, 2H, NHCH2), 5.1-5.3 (m, 2H, ═CH2), 5.78-6.0 (m, 1H, ═CH), 7.22-7.35 (m, 2H, ArH), 7.50 (br.t, 1H, NH), 7.69 (d, 1H, ArH), 10.73 (br.s, 1H, NH); MS: m/e 271/273 (M+); (C10H10N3Cl1O2S1) calc. C, 44.20; H, 3.71 N, 15.46; found C, 44.10; H, 3.79; N, 15.32.

reactant | 2-amino-4-chlorobenzenesulfonamide | NC1=C(C=CC(=C1)Cl)S(=O)(=O)N | C6H7ClN2O2S
reactant | allyl isothiocyanate | C(C=C)N=C=S | C4H5NS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Allylamino-6-chloro-4H-1,2,4-benzothiadiazine 1,1-dioxide | C(C=C)NC1=NS(C2=C(N1)C=C(C=C2)Cl)(=O)=O | C10H10ClN3O2S
